* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt AD8237 1 2 3 4 5 6 7 8
VOS N014 IN+ 37.5e-6
VOS1 N025 REF 37.5e-6
I23 IN- 0 -1e-12
I24 FB 0 -1e-12
I1 IN+ 0 -650e-12
I2 REF 0 -650e-12
G7 0 V+ N016 V+ 1
R4 0 V+ 10E9
G8 0 V- N004 V- 1
R5 0 V- 10E9
G1 0 IN+ N021 N023 1.26e-9
R13 N023 IN+ 10e9
G2 0 IN- N021 N023 1.26e-9
R14 IN- N021 10E9
R16 N023 -Vs 10E9
R15 +Vs N023 10E9
E10 VPOSx 0 +Vs 0 1
E11 VNEGx 0 -Vs 0 1
I3 +Vs -Vs 130E-6
H3 N003 IN- V24 67.3
V24 N001 0 0
R19 N001 0 0.0166
G4 0 Out_inp V- V+ 100E-6
G5 0 Out_inp FB N025 100E-6
R10 Out_inp 0 10E9
R11 Out_inp 0 10E9
G6 0 sub_out 0 Out_inp 1
R1 0 sub_out 10E9
C1 N020 sub_out 85E-12
C2 N019 N020 25E-12
D7 V+ N012 D
D8 N018 V+ D
V3 VPOSx N012 0.55
V4 N018 VNEGx 0.6
D9 V- N002 D
D10 N006 V- D
V5 VPOSx N002 0.55
V6 N006 VNEGx 0.6
EPSRR+ N015 N014 N100 N200 1
E1 N100 0 N024 0 1
R6 N100 N200 1
R7 N200 0 1E6
C3 N200 0 0.3E-6
R9 N024 0 1E6
C4 +Vs N024 100e-6
EPSRR- N004 N003 N300 N400 1
E2 N300 0 N026 0 1
R12 N300 N400 0.5
R17 N400 0 1E6
C5 N400 0 0.5E-6
R18 N026 0 1E6
C6 -Vs N026 100e-6
D16 N9999 N009 DX
D18 N017 N9999 DX
V1 N017 N022 0.7
V13 N005 N009 0.7
H1 VPOSx N005 POLY(1) V_current 0 -29.4 5880.5 -500000000
H2 N022 VNEGx POLY(1) V_current 0 50 -18820 590000000
V_current VOUT N9999 0
ECMRR N016 N015 cmrr_out 0 1
L2 N028 0 15
R24 N028 cmrr_out 500
G12 0 cmrr_out VCM 0 8E-10
R22 IN+ VCM 10e9
R23 IN- VCM 10e9
G11 IN+ IN- IN+ IN- -0.5e-8
S1 N020 N019 BW 0 SW
G9 0 N013 sub_out 0 0.0023
R21 N013 0 500
C7 N013 0 2e-9
C8 IN- 0 10e-12
C10 IN+ 0 10e-12
E3 N010 V- VPOSX N007 1
E4 V- N011 VPOSX N008 1
D1 V+ N010 D
D2 N011 V+ D
V7 N007 VNEGX 1.6
V8 N008 VNEGX 1.6
G3 0 REF N027 N029 1.26e-9
R8 FB N027 10e9
R20 REF N027 10e9
G10 0 FB N027 N029 1.26e-9
R2 N029 +Vs 10e9
R3 N029 -Vs 10e9
R28 Out_inp N019 10k
R9999 N9999 N013 0.01
R25 +Vs 5 1µ Noiseless
R26 IN+ 2 1µ Noiseless
R27 IN- 3 1µ Noiseless
R29 REF 6 1µ Noiseless
R30 -Vs 4 1µ Noiseless
R31 BW 1 1µ Noiseless
R32 8 VOUT 1µ Noiseless
R33 7 FB 1µ Noiseless
I4 BW 0 1f
.model SW Vswitch (Ron=1e-3 Roff=1e9 Von=-2.5 Voff=+2.5 Vh=0)
.model D D
.model DX D IS=1E-14 EG=0.6
.ends AD8237
